US09107916B2
B. 2-[5-(4-bromophenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
A solution of (2E)-1-(4-bromophenyl)-3-(dimethylamino)prop-2-en-1-one (100 mg, 0.39 mmol) and 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt (90 mg, 0.43 mmol, PREPARATION 3) in MeOH (10 mL) was heated under reflux conditions for 30 min and then cooled to rt. The solution was concentrated, and the residue was purified by flash column chromatography (hexanes:EtOAc=1:1) to give the title compound (108 mg, 85%) as an orange-yellow solid.

reactant | (2E)-1-(4-bromophenyl)-3-(dimethylamino)prop-2-en-1-one | 0.39 mmol, 100 mg | BrC1=CC=C(C=C1)C(\C=C\N(C)C)=O | C11H12BrNO
reactant | 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt | 0.43 mmol, 90 mg | Cl.N(N)C1=NC=CC(=C1)C#N
solvent | MeOH | 10 mL | CO | CH4O
product | 2-[5-(4-bromophenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 108 mg, 85% | BrC1=CC=C(C=C1)C1=CC=NN1C1=NC=CC(=C1)C#N | C15H9BrN4
